*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC250ARA680MF80G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC250ARA680MF80G_20deg-C 1 2

C1 4 2 4.11e-05
C2 5 2 1.72e-05
C3 6 2 7.87e-06
R1 3 4 2.18e-02
R2 4 5 9.15e-02
R3 5 6 1.42e+00
L1 1 3 2.90e-09

.ENDS
*$
